US05686424
In an oven-dried round bottomed flask was added L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 2-(4-aminophenyl)ethylamide (100 mg, 0.23 mmol), and tetrahydrofuran (5 mL). The solution was stirred at 22° C., and treated with pyridine (0.037 mL, 0.45 mmol, 2.0 eq) followed by acetyl chloride (0.024 mL, 0.34 mmol, 1.5 eq). The reaction mixture was allowed to stir for one hour. The solvent was removed in vacuo and the residue partitioned between EtOAc (50 mL) and sat. NaHCO3 (50 mL). The organic layer was washed with sat. aq. NaCl, dried (MgSO4) and concentrated to an oil. The oil was purified by flash chromatography to provide 70 mg of L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 2-(4-(N-acetyl)aminophenyl)ethylamide as a foam.

reactant | L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 2-(4-aminophenyl)ethylamide | 0.23 mmol, 100 mg | COC=1C=C(C=C(C1OC)OC)C(CC(CC1=CC=C(C=C1)N)NC([C@H]1NCCC1)=O)=O | C24H31N3O5
reactant | pyridine | 0.45 mmol, 0.037 mL, 2.0 eq | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.34 mmol, 0.024 mL, 1.5 eq | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] 2-(4-(N-acetyl)aminophenyl)ethylamide | 70 mg | COC=1C=C(C=C(C1OC)OC)C(CC(CC1=CC=C(C=C1)NC(C)=O)NC([C@H]1NCCC1)=O)=O | C26H33N3O6
